US07371757B2
(c) 6-chloroquinoline-4-carbaldehyde [3-(cyclopropylmethyl)-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4yl]hydrazone
To a suspension of 1-cyclopropylmethyl-6-hydrazinopyrimidine-2,4[1H,3H]dione (5.05 g) in methanol (75 mL) was added 6-chloroquinoline 4-carbaldehyde (5.30 g). After stirring overnight, the reaction was filtered, yielding a yellow solid (10 g).

reactant | 1-cyclopropylmethyl-6-hydrazinopyrimidine-2,4[1H,3H]dione | 5.05 g | C1(CC1)CN1C(NC(C=C1NN)=O)=O | C8H12N4O2
reactant | 6-chloroquinoline 4-carbaldehyde | 5.30 g | ClC=1C=C2C(=CC=NC2=CC1)C=O | C10H6ClNO
solvent | methanol | 75 mL | CO | CH4O
product | 6-chloroquinoline-4-carbaldehyde [3-(cyclopropylmethyl)-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4yl]hydrazone | 10 g | C1(CC1)CN1C(NC(C=C1NN=CC1=CC=NC2=CC=C(C=C12)Cl)=O)=O | C18H16ClN5O2
